US08168796B2
After charging 4.6 parts of 1-phenyl-3,5-di(4-bromophenyl)pyrazoline synthesized by a known method, 2.4 parts of trimethylsilylacetylene, 0.46 parts of tetrakis(triphenylphosphine)palladium(0), 0.038 parts of copper iodide and 20 ml of triethylamine in 40 ml of THF, the mixture was stirred at 66° C. for 8 hours and then the reaction mixture was filtered and washed with THF. The obtained filtrate was concentrated, and the precipitate was filtered, washed, recrystallized from methanol and dried at 60° C. to obtain 4.4 parts of 1-phenyl-3,5-di(4-trimethylsilylethynylphenyl)pyrazoline having a melting point of 108-110° C.

reactant | 1-phenyl-3,5-di(4-bromophenyl)pyrazoline | C1(=CC=CC=C1)N1NC(=CC1C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br | C21H16Br2N2
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 40 ml | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper iodide | [Cu](I)I
product | 1-phenyl-3,5-di(4-trimethylsilylethynylphenyl)pyrazoline | C1(=CC=CC=C1)N1NC(=CC1C1=CC=C(C=C1)C#C[Si](C)(C)C)C1=CC=C(C=C1)C#C[Si](C)(C)C | C31H34N2Si2
